US08067590B2
15a 2-Bromo-1-(4-hydroxymethyl-phenyl)-ethanone
To 7.00 g (46.6 mmol) 1-(4-hydroxymethyl-phenyl)-ethanone in 100 mL THF is added 22.5 g (46.6 mmol) tetrabutylammonium-tribromide dissolved in MeOH/THF. The reaction mixture is stirred 1 h at RT and the solvent is evaporated. The residue is dissolved with water and tertbutylmethylether. The organic phase is washed eight times with water. The combined organic phase is dried over MgSO4, filtered and the solvent is evaporated. The residue is elutriated with diisopropylether and the precipitate is collected and dried.

reactant | 1-(4-hydroxymethyl-phenyl)-ethanone | 46.6 mmol, 7.00 g | OCC1=CC=C(C=C1)C(C)=O | C9H10O2
reactant | tetrabutylammonium-tribromide | 46.6 mmol, 22.5 g | [Br-].[Br-].[Br-].C(CCC)[N+](CCCC)(CCCC)CCCC.C(CCC)[N+](CCCC)(CCCC)CCCC.C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | MeOH THF | CO.C1CCOC1
product | 2-Bromo-1-(4-hydroxymethyl-phenyl)-ethanone | BrCC(=O)C1=CC=C(C=C1)CO | C9H9BrO2
